US04933330
Ethyl 2-acetoxy-5-benzylideneaminobenzoate
Ethyl 2-hydroxy-5-benzylideneaminobenzoate (21 g, 78 mmole) was dissolved in pyridine (60 ml) and acetic anhydride (8.9 ml) was added after which the reaction mixture was kept at room temperature for 48 hours, evaporated to dryness in vacuo, and the residue recrystallized from hexane to give the title compound (17.8 g, 73%), m.p. 79°-80° C. Found (Calc. for C18H17NO4) C 69.33 (69.45), H 5.51 (5.47), N 4.57 (4.50).

reactant | Ethyl 2-hydroxy-5-benzylideneaminobenzoate | 78 mmole, 21 g | OC1=C(C(=O)OCC)C=C(C=C1)N=CC1=CC=CC=C1 | C16H15NO3
reactant | acetic anhydride | 8.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-acetoxy-5-benzylideneaminobenzoate | 17.8 g, 73% | C(C)(=O)OC1=C(C(=O)OCC)C=C(C=C1)N=CC1=CC=CC=C1 | C18H17NO4
